US07189716B2
8-(4-Iodo-2-methoxy-pyridin-3-yl)-6-methyl-2-morpholin-4-yl-9H-purine:
To a solution of N5-(4-Iodo-2-methoxy-pyridin-3ylmethylene)-6-methyl-2-morpholin-4-yl-pyrimidine-4,5-diamine (140 mg, 0.31 mmol) in a mixture of MeOH:THF (20 mL: 10 mL) was added iodobenzene diacetate (198 mg, 0.62 mmol). After stirring at ambient temperature for 4 hours, the solvents were evaporated in vacuo and the crude was purified by preparative HPLC (see method below) to give the title compound as an amber solid (50 mg, 36%): IR (KBr, cm−1) 3420, 2853, 1618; 1H NMR (400 MHz, CDCl3) δ 9.63 (s, 1H), 7.83 and 7.54 (d, J=5.3, 1H), 3.91 (s, 3H), 3.81–3.77 (m, 8H), 2.72 (s, 3H); LCMS (+ESI, M+H+) m/z 453; HPLC: 97% (220 nm).

reactant | N5-(4-Iodo-2-methoxy-pyridin-3ylmethylene)-6-methyl-2-morpholin-4-yl-pyrimidine-4,5-diamine | 0.31 mmol, 140 mg | IC1=C(C(=NC=C1)OC)C=NC=1C(=NC(=NC1C)N1CCOCC1)N | C16H19IN6O2
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | iodobenzene diacetate | 0.62 mmol, 198 mg | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
solvent | MeOH | CO | CH4O
product | 8-(4-Iodo-2-methoxy-pyridin-3-yl)-6-methyl-2-morpholin-4-yl-9H-purine | 50 mg, 36% | IC1=C(C(=NC=C1)OC)C=1NC2=NC(=NC(=C2N1)C)N1CCOCC1 | C16H17IN6O2
